US06911561B2
In a manner similar to that of Example 1, H2O2 (>95%) was combined with heptafluorobutyric anhydride to give bis(heptafluorobutanoyl) peroxide (δ−82.6, −118.4, −128.2) in heptafluorobutyric acid.

reactant | H2O2 | OO | H2O2
reactant | heptafluorobutyric anhydride | FC(C(C(C(=O)OC(C(C(C(F)(F)F)(F)F)(F)F)=O)(F)F)(F)F)(F)F | C8F14O3
solvent | heptafluorobutyric acid | FC(C(C(C(=O)O)(F)F)(F)F)(F)F | C4HF7O2
product | bis(heptafluorobutanoyl) peroxide | FC(C(C(=O)OOC(C(C(C(F)(F)F)(F)F)(F)F)=O)(F)F)(C(F)(F)F)F | C8F14O4
